US04028356
In the manner given in Example 1, 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1,1,1-trifluoro-3-bromopropanone under nitrogen to give 7-chloro-2-[[2-bromo-1-(trifluoromethyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | 1,1,1-trifluoro-3-bromopropanone | FC(C(CBr)=O)(F)F | C3H2BrF3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-[[2-bromo-1-(trifluoromethyl)ethylidene]hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CBr)C(F)(F)F)C2=CC=CC=C2)C1 | C18H13BrClF3N4
